US05643920
Preparation of 1-(4-chlorophenyl)-8,9-dihydro-7H-pyrrolo[3,2,1-ij]quinolin
5,6,7,8-Tetrahydroquinoline (35 g) was dissolved in 500 ml of toluene. To this solution was added 4-chlorophenacyl bromide (61.4 g) gradually and refluxed for 1 hour. The reaction mixture was cooled to room temperature, and depositing crystals were collected by filtration (86 g). These solids were dissolved in 500 ml of N,N-dimethylformamide. To this solution was added, molecular sieves 3A (50 g) and triethylamine (44 ml), then the reaction mixture was heated at 100° C. for 1 hour. The reaction mixture became dark brown. The dark brown solution that obtained after removing insoluble matter by filtration was concentrated under reduced pressure. The resultant brown solids were recrystallized from ethanol (300 ml), and the title compound was obtained as colorless leaflets (50 g).

reactant | 5,6,7,8-Tetrahydroquinoline | 35 g | N1=CC=CC=2CCCCC12 | C9H11N
reactant | 4-chlorophenacyl bromide | 61.4 g | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-chlorophenyl)-8,9-dihydro-7H-pyrrolo[3,2,1-ij]quinolin | ClC1=CC=C(C=C1)C1=CN2C=CC=C3CCCC1=C23 | C17H14ClN
